US03992544
1-Benzyl-1,2,3,6-tetrahydro-3-methyl-4-pyrrolidinopyridine
A mixture of 1-benzyl-3-methyl-4-piperidone (91 g), pyrrolidine (35.6 g), p-toluenesulphonic acid (0.5 g) and dry benzene (400 ml) was heated under reflux under a Dean and Stark trap until separation of water was complete.The solvent was removed on a rotary evaporator and the residue distilled togive 95 g of a colourless liquid boiling at 144°-6° C (0.01 mm).

reactant | 1-benzyl-3-methyl-4-piperidone | 91 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | pyrrolidine | 35.6 g | N1CCCC1 | C4H9N
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1-Benzyl-1,2,3,6-tetrahydro-3-methyl-4-pyrrolidinopyridine | C(C1=CC=CC=C1)N1CC(C(=CC1)N1CCCC1)C | C17H24N2
